US05739382
1.2. 2-amino-5-bromo[1,1'-biphenyl]-3-sulphonic acid
To a mixture of 37.8 g (100 mmol) of 2-amino-5-bromo-3-iodobenzenesulphonic acid and 32 g (300 mmol) of sodium carbonate in 300 ml of 1,2-dimethoxyethane and 150 ml of water are successively added, under a nitrogen atmosphere, 5.8 g (5 mmol) of tetrakis(triphenylphosphine)palladium (0) and 19.5 g (160 mmol) of benzeneboronic acid. The mixture is heated at the reflux temperature for 4 hours and the reaction medium is then concentrated under reduced pressure. The residue thus obtained is then dissolved in a mixture containing 300 ml of methanol, 300 ml of 0.1N hydrochloric acid and 16 ml of 95% sulphuric acid. The mixture is concentrated to 100 ml under reduced pressure, cooled to 0° C. and filtered. The residue is purified by chromatography on an RP 18 reverse-phase column, eluting with an acetonitrile:water mixture (2:8).

reactant | 2-amino-5-bromo-3-iodobenzenesulphonic acid | 100 mmol, 37.8 g | NC1=C(C=C(C=C1I)Br)S(=O)(=O)O | C6H5BrINO3S
reactant | sodium carbonate | 300 mmol, 32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzeneboronic acid | 160 mmol, 19.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | hydrochloric acid | 0.1N, 300 ml | Cl | ClH
reactant | sulphuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dimethoxyethane | 300 ml | COCCOC | C4H10O2
solvent | water | 150 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 5 mmol, 5.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 300 ml | CO | CH4O
product | 2-amino-5-bromo[1,1'-biphenyl]-3-sulphonic acid | NC1=C(C=C(C=C1S(=O)(=O)O)Br)C1=CC=CC=C1 | C12H10BrNO3S
